US05635517
A mixture of 4-nitrophthalic anhydride (1.7 g, 8.5 mmol), α-aminoglutarimide hydrochloride (1.4 g, 8.5 mmol) and sodium acetate (0.7 g, 8.6 mmol) in glacial acetic acid (30 mL) was heated under reflux for 17 hours. The mixture was concentrated in vacuo and the residue was stirred with methylene chloride (40 mL) and water (30 mL). The aqueous layer was separated, extracted with methylene chloride (2×40 mL). The combined methylene chloride solutions were dried over magnesium sulfate and concentrated in vacuo to give 1.4 g (54%) of 1,3-dioxo-2-(2,6-dioxopiperidin-3-yl)-5-nitroisoindoline as a light brown solid. An analytical sample was obtained by recrystallization from methanol: mp 228.5°-229.5° C.; 1H NMR (DMSO-d6) δ 11.18(s, 1 H), 8.69-8.65(d,d J=1.9 and 8.0 Hz, 1H), 8.56(d, J=1.9 Hz, 1H), 8.21(d, H=8.2 Hz, 1H), 5.28(d,d J=5.3 and 12.8 Hz, 1H), 2.93-2.07(m, 4H); 13C NMR (DMSO-d6) δ 172.66, 169.47, 165.50, 165.23, 151.69, 135.70, 132.50, 130.05, 124.97, 118.34, 49.46, 30.85, 21.79; Anal. Calcd for C13H9N3O6 : C, 51.49; H, 2.99; N, 13.86. Found: C, 51.59; H, 3.07; N, 13.73.

reactant | 4-nitrophthalic anhydride | 8.5 mmol, 1.7 g | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
reactant | α-aminoglutarimide hydrochloride | 8.5 mmol, 1.4 g | Cl.NC1C(=O)NC(CC1)=O
reactant | sodium acetate | 8.6 mmol, 0.7 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 1,3-dioxo-2-(2,6-dioxopiperidin-3-yl)-5-nitroisoindoline | 1.4 g, 54% | O=C1N(C(C2=CC(=CC=C12)[N+](=O)[O-])=O)C1C(NC(CC1)=O)=O | C13H9N3O6
